US09303020B2
Preparation of 5-iodo-2-methoxy-4-methyl-N-(1-(pyrimidin-2-yl)cyclopropyl)benzamide.
A mixture of 1-(pyrimidin-2-yl)cyclopropanamine (2.00 g, 14.8 mmol) and 5-iodo-2-methoxy-4-methylbenzoic acid (4.75 g, 16.28 mmol) in DMF (8 ml) in a 25 ml RB flask was cooled to 0° C., and then added with N,N-diisopropylethylamine (12.92 ml, 74.0 mmol) followed by HATU (6.75 g, 17.76 mmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was added ice water and extracted with ethyl acetate (3×25 ml). The combined organic extracts were washed with brine solution, dried over Na2SO4, filtered and concentrated. The crude product was purified by using a silica gel (60-120 mesh) column with 60% ethyl acetate in hexane as an eluent. Yield: 3.2 g, 48%. 1H NMR (400 MHz, CDCl3): δ 8.57 (d, J=4.8 Hz, 2H), 8.52 (s, 1H), 8.47 (s, 1H), 7.03 (t, 1H, J=5.0 Hz), 4.02 (s, 3H), 2.63 (s, 3H), 1.83-1.80 (m, 2H), 1.52-1.49 (m, 2H). LCMS: (ES+) m/z=410 (M+H)+; Column—Ascentis Express C8 (5×2.1 mm-2.7 μm); Mphase A: 2% MeCN-98% H2O-10 mM NH4COOH; Mphase B: 98% MeCN-2% H2O-10 mM NH4COOH; Flow=1 ML/MIN; Time: 0.0, 1.5, 3.2; % A: 100.0, 0.0, 0.0; % B: 0.0, 100.0, 100.0; RT: 1.904 min.

reactant | 1-(pyrimidin-2-yl)cyclopropanamine | 14.8 mmol, 2.00 g | N1=C(N=CC=C1)C1(CC1)N | C7H9N3
reactant | 5-iodo-2-methoxy-4-methylbenzoic acid | 16.28 mmol, 4.75 g | IC=1C(=CC(=C(C(=O)O)C1)OC)C | C9H9IO3
reactant | N,N-diisopropylethylamine | 74.0 mmol, 12.92 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 17.76 mmol, 6.75 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 5-iodo-2-methoxy-4-methyl-N-(1-(pyrimidin-2-yl)cyclopropyl)benzamide | IC=1C(=CC(=C(C(=O)NC2(CC2)C2=NC=CC=N2)C1)OC)C | C16H16IN3O2
